US08440662B2
Step 4: N,N-Dimethyl-4-{3-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)phenyl]-ureido}-benzamide
To a solution of 4-[3-(4-bromo-phenyl)-ureido]-N,N-dimethyl-benzamide (6.8 g, 0.0187 mol) in 1,4-dioxane (350 mL) were added bis(pinacolato)diboron (7.15 g, 0.0281 mol), KOAc (5.5 g, 0.0561 mol) and PdCl2(dppf).DCM (1.0 g, 0.0013 mol). The reaction vessel was purged with nitrogen for 10 min. The reaction mixture was stirred at 105° C. for 12 h. The reaction mixture was diluted with water and extracted with ethyl acetate [3×100 mL]. The organic layer was washed with water, brine and dried over sodium sulfate. The solvent was removed under reduced pressure to afford the crude residue. The crude product was purified using column chromatography (60-120 silica gel, 5% MeOH in chloroform) to yield the desired title product. [3.7 g, 48%]; 1H NMR (300 MHz, DMSO-d6): δ 8.91 (d, J=6.0 Hz, 2H), 7.43-7.61 (m, 6H), 2.95 (s, 6H), 1.25 (s, 12H); LC-MS (ESI): Calculated mass: 409.2; Observed mass: 410.1 [M+H]+ (RT: 1.5 min).

reactant | 4-[3-(4-bromo-phenyl)-ureido]-N,N-dimethyl-benzamide | 0.0187 mol, 6.8 g | BrC1=CC=C(C=C1)NC(NC1=CC=C(C(=O)N(C)C)C=C1)=O | C16H16BrN3O2
reactant | bis(pinacolato)diboron | 0.0281 mol, 7.15 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 0.0561 mol, 5.5 g | CC(=O)[O-].[K+]
reactant | DCM | 0.0013 mol, 1.0 g | C(Cl)Cl | CH2Cl2
solvent | 1,4-dioxane | 350 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | N,N-Dimethyl-4-{3-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)phenyl]-ureido}-benzamide | CN(C(C1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O)C | C22H28BN3O4
